US06677368B2
To a solution of 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one (69.3 mg, 0.25 mmol) and 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide (69.8 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 5-methyl-2-[2-oxo-4-(4-trifluoromethoxy-phenyl)-1,2-dihydro-indol-3-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide as a yellow solid (96.8 mg, 72%).

reactant | 4-(4-trifluoromethoxy-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 69.3 mg | FC(OC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O)(F)F | C15H10F3NO2
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide | 0.26 mmol, 69.8 mg | N1(CCCC1)CCCNC(=O)C1=C(NC(=C1C)C=O)C | C15H23N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 5-methyl-2-[2-oxo-4-(4-trifluoromethoxy-phenyl)-1,2-dihydro-indol-3-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide | 96.8 mg, 72% | N1(CCCC1)CCCNC(=O)C1=C(NC(=C1)C)C=C1C(NC2=CC=CC(=C12)C1=CC=C(C=C1)OC(F)(F)F)=O | C29H29F3N4O3
